US08729263B2
To a microwave vial was added 3-methoxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazin-3-yl)phenyl trifluoromethanesulfonate (160 mg, 0.33 mmol), 1H-pyrazol-4-ylboronic acid, (73.4 mg, 0.66 mmol), potassium phosphate (209 mg, 0.99 mmol), Pd2(dba)3 (30.1 mg, 0.03 mmol), and SPhos (26.9 mg, 0.06 mmol), followed by addition of 1,4-dioxane (2.6 mL)/H2O (0.7 mL). The vial was purged with N2 for 5 minutes and the reaction mixture was heated at 100° C. in the microwave for 1 h. The reaction mixture was concentrated in vacuo. The crude material was adjusted to pH 3 using 1 M HCl aqueous solution and loaded on an SCX column. The crude material was washed with methanol then eluted with 2 N ammonia in methanol. The product-containing fractions were concentrated to afford 3-(2-methoxy-4-(1H-pyrazol-4-yl)phenyl)-6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazine (133 mg) MS [M+H+]=406.2.

reactant | 3-methoxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazin-3-yl)phenyl trifluoromethanesulfonate | 0.33 mmol, 160 mg | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)CC1CC(NC(C1)(C)C)(C)C)OC)(F)F | C22H28F3N3O4S
reactant | 1H-pyrazol-4-ylboronic acid | 0.66 mmol, 73.4 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | potassium phosphate | 0.99 mmol, 209 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | SPhos | 0.06 mmol, 26.9 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | Pd2(dba)3 | 0.03 mmol, 30.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | 0.7 mL | O | H2O
solvent | 1,4-dioxane | 2.6 mL | O1CCOCC1 | C4H8O2
product | 3-(2-methoxy-4-(1H-pyrazol-4-yl)phenyl)-6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazine | 133 mg | COC1=C(C=CC(=C1)C=1C=NNC1)C=1N=NC(=CC1)CC1CC(NC(C1)(C)C)(C)C | C24H31N5O
